US05972042
A 0.5 mg/ml solution of a first compound (p-phenylenediamine, "A") and a 0.5 mg/ml solution of a second compound (1-naphthol, "B") was prepared by dissolving the compound in the appropriate amount of 0.1 M CH3COONa, pH 5.5, buffer. A total volume of 100 ml was used in each LOM beaker. 100 ml "A" was added to one beaker and 50 ml "A" and 50 ml "B" were combined to form 100 ml in a second beaker. Swatches of the materials listed above were wetted in DI water and soaked in the precursor solutions. A Coprinus cinereus peroxidase ("CiP") with an activity of 180,000 POXU/ml was added to each beaker at a concentration of 0.05 POXU/ml. Either 200 or 500 μM hydrogen peroxide was added to each LOM beaker. The LOM beakers were sealed and mounted in the LOM. After 1 hour at 42 RPM and 30° C., the LOM was stopped. The spent liquor was poured off and the swatches were rinsed in cold tap water for about 15 minutes. The swatches were dried at room temperature and CIELAB values were measured for all of the swatches using the Macbeth ColorEye 7000. The results are given in Tables 38-41.

reactant | p-phenylenediamine | C1=CC(=CC=C1N)N | C6H8N2
reactant | hydrogen peroxide | 500 μM | OO | H2O2
reactant | DI water | O | H2O
solvent | CH3COONa | 0.1 M | CC(=O)O[Na]
product | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
